US05215982
To a solution of 2-(ethoxymethylene)-2-cyanoacetic acid ethyl ester (56.3 g) in ethanol (200 ml) was added dropwise 2-hydrazinopropionaldehyde diethyl acetal (54 g) in ethanol (80 ml) at room temperature. The mixture was refluxed for 4 hours. The reaction mixture was cooled at room temperature and the solvent was distilled off in vacuo to give the crude. 1-(1-methyl-2,2-diethoxyethyl)-4-ethoxycarbonyl-5-aminopyrazole (100 g). The crude product (100 g) was dissolved in aqueous 4N-sodium hydroxide (170 ml) and the mixture was refluxed for 1 hour. The reaction mixture was cooled at room temperature and washed with ethyl acetate (100 ml x 2). The aqueous solution was adjusted to pH 3.5 with 6N-hydrochloric acid and stirred for 1 hour. The precipitate was collected by filtration, washed with water and dried over phosphorus pentoxide to give 1-(1-methyl-2,2-diethoxyethyl)-4-carboxy-5-aminopyrazole (9.93 g).

reactant | 2-(ethoxymethylene)-2-cyanoacetic acid ethyl ester | 56.3 g | C(C)OC(C(C#N)=COCC)=O | C8H11NO3
reactant | 2-hydrazinopropionaldehyde diethyl acetal | 54 g | C(C)OC(C(C)NN)OCC | C7H18N2O2
reactant | 1-(1-methyl-2,2-diethoxyethyl)-4-ethoxycarbonyl-5-aminopyrazole | 100 g | CC(C(OCC)OCC)N1N=CC(=C1N)C(=O)OCC | C13H23N3O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 170 ml | [OH-].[Na+]
product | 1-(1-methyl-2,2-diethoxyethyl)-4-carboxy-5-aminopyrazole | 9.93 g | CC(C(OCC)OCC)N1N=CC(=C1N)C(=O)O | C11H19N3O4
